US07666888B2
4-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperazin-2-one
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and piperazinone (6.0 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (4.6 mg). Calcd for C15H15N3O3: 285.1113, found 285.1113.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | piperazinone | 0.060 mmol, 6.0 mg | N1C(CNCC1)=O | C4H8N2O
product | 4-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperazin-2-one | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(NCC1)=O | C15H15N3O3
